US07923450B2
b) [4-(2-Methyl-oxazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A solution of [4-(2-methyl-oxazol-5-yl)-phenyl]-thiourea (100 mg, 0.43 mmol) and 2-bromo-6-phenyl-cyclohexanone (114 mg, 0.45 mmol) in ethanol (5 mL) was heated to reflux over night. The solvent was removed under reduced pressure and the residue purified on silica gel using methylene chloride and methylene chloride/methanol (19:1 v/v) as eluent to yield the title compound (73 mg, 44%) as a yellow gum. MS ISP (m/e): 388.2 (100%) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.18 (s, 1H), 7.49 (m, 4H), 7.11-7.29 (m, 6H), 4.04 (m, 1H), 2.70 (m, 2H), 2.43 (s, 3H), 2.14 (m, 1H), 1.70-1.93 (m, 3H).

reactant | [4-(2-methyl-oxazol-5-yl)-phenyl]-thiourea | 0.43 mmol, 100 mg | CC=1OC(=CN1)C1=CC=C(C=C1)NC(=S)N | C11H11N3OS
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.45 mmol, 114 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | [4-(2-Methyl-oxazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 73 mg, 44% | CC=1OC(=CN1)C1=CC=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C23H21N3OS
